* C:\Users\Rich\development\UWaterloo\dsp_pid.git\sim\InputStage.asc
XU1 N003 0 N004 opamp Aol=100K GBW=10Meg
XU2 N001 0 N002 opamp Aol=100K GBW=10Meg
Vcom N005 0 1.65
Vsrc Vsrc 0 SINE(0 5 1000) AC 1
R1 N002 N001 3.3k
R2 N001 N005 3.3k
R3 N001 Vsrc 10k
R4 N003 N002 20k
R5 N004 N003 20k
C1 N004 N003 330p
C2 0 Vadc 330p
R6 Vadc N004 20k
C3 0 N003 330p
C4 N002 N001 100p
.lib opamp.sub
.tran 1m
; .ac oct 200 1 50k
.backanno
.end
